US09387200B2
a) 3-(4-Chloro-phenyl)-4-hydroxy-7-(6-methoxy-pyridin-3-yl)-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
The title compound was synthesized in analogy to Example 1 from 7-bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and 2-methoxy-5-pyridineboronic acid: MS (m/z) 440.1 (M−1).

reactant | 7-bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=C(C=C2)Cl)O | C15H10BrClN2O3S
reactant | 2-methoxy-5-pyridineboronic acid | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
product | 3-(4-Chloro-phenyl)-4-hydroxy-7-(6-methoxy-pyridin-3-yl)-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C=1C=NC(=CC1)OC)SN=C2C2=CC=C(C=C2)Cl)O | C21H16ClN3O4S
